US03956500
1-Methyl-2-nitroethyl-1'-acetylthiobutyl ether was prepared using procedures similar to those described in Examples I and II by chloroalkylation of 1-nitro-2-propanol with n-butyraldehyde and hydrogen chloride followed by treatment of the intermediate chlorobutyl ether with thiolacetic acid and then pyridine. Treatment of this nitroalkylacylthio ether in toluene with ethanolic sodium hydroxide as described in Example I afforded crude 4- oximino-2-propyl-5-methyl-1,3-oxathiolane comprised of a mixture of Isomer A (NMR data suggests Trans Isomer) and Isomer B (NMR suggests Cis). Trituration of 26 grams of the crude oxime mixture with 150 ml of hexane and filtration afforded 3.0 grams pure Isomer A, mp 86°-88°.

reactant | 1-nitro-2-propanol | [N+](=O)([O-])CC(C)O | C3H7NO3
reactant | n-butyraldehyde | C(CCC)=O | C4H8O
reactant | hydrogen chloride | Cl | ClH
reactant | chlorobutyl ether | ClCCCCOCCCCCl | C8H16Cl2O
reactant | thiolacetic acid | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4- oximino-2-propyl-5-methyl-1,3-oxathiolane | N(O)=C1SC(OC1C)CCC | C7H13NO2S
